* E:\DETC(AE)\spice\bidibuff\bidibuffer.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 6/26/2020 2:33:47 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
M12  Net-_M11-Pad1_ /PDEN Net-_M12-Pad3_ Net-_M12-Pad3_ eSim_MOS_P		
M11  Net-_M11-Pad1_ /PDEN Earth Earth mosfet_n		
M17  Net-_M15-Pad2_ Net-_M11-Pad1_ Net-_M17-Pad3_ Net-_M17-Pad3_ eSim_MOS_P		
M2  /A /A /ENABLE /ENABLE eSim_MOS_P		
M9  Net-_M13-Pad2_ /A /ENABLE /ENABLE eSim_MOS_P		
M16  /OUT-TO-PAD Net-_M13-Pad2_ /ENABLE /ENABLE eSim_MOS_P		
M1  /A /A Earth Earth eSim_MOS_N		
M8  Net-_M13-Pad2_ /A Earth Earth eSim_MOS_N		
M13  /OUT-TO-PAD Net-_M13-Pad2_ Earth Earth eSim_MOS_N		
M5  Net-_M3-Pad1_ /Y Net-_M5-Pad3_ Net-_M5-Pad3_ eSim_MOS_P		
M10  Earth /PI Net-_M10-Pad3_ Net-_M10-Pad3_ eSim_MOS_P		
M3  Net-_M3-Pad1_ /Y Net-_M3-Pad3_ Net-_M3-Pad3_ eSim_MOS_N		
M4  Net-_M3-Pad3_ /PI Earth Earth eSim_MOS_N		
M7  Net-_M7-Pad1_ Net-_M7-Pad2_ Net-_M14-Pad2_ Net-_M14-Pad2_ eSim_MOS_N		
M15  Net-_M15-Pad1_ Net-_M15-Pad2_ /Y /Y eSim_MOS_N		
M6  Net-_M14-Pad2_ Net-_M15-Pad2_ Net-_M6-Pad3_ Net-_M6-Pad3_ eSim_MOS_N		
M14  /Y Net-_M14-Pad2_ Net-_M14-Pad3_ Net-_M14-Pad3_ eSim_MOS_N		
M18  Net-_M15-Pad2_ /PUEN Net-_M18-Pad3_ Net-_M18-Pad3_ eSim_MOS_N		
U3  /Y Net-_M5-Pad3_ Net-_M7-Pad2_ Net-_M12-Pad3_ Net-_M15-Pad1_ Net-_M7-Pad1_ Net-_M18-Pad3_ Net-_M15-Pad2_ PORT		
U5  Net-_U5-Pad1_ /ENABLE d_inverter		
v5  /PUEN Earth pulse		
v6  /OUT-TO-PAD Earth pulse		
v4  /PDEN Earth pulse		
v2  Net-_U5-Pad1_ Earth pulse		
v1  /A Earth pulse		
v3  /PI Earth pulse		
U2  /PI PORT		

.end
